US05583135
To a solution of diethyl malonate (0.54 g) in N,N-dimethylacetamide (10 ml) was added sodium hydride (60%; 135 mg), and the mixture was stirred at room temperature for 30 minutes. To the mixture was added 3,4-dihydro-7-nitro-2H-1,4-benzoxazine-4,5-dicarboxylic anhydride (0.73 g), and the mixture was stirred at 120° C. for 2 hours. The mixture was poured into diluted HCl, and the precipitates were collected and washed with water to afford yellow crystals of 2,3-dihydro-6-ethoxycarbonyl-7-hydroxy-9-nitro-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine (0.85 g).

reactant | diethyl malonate | 0.54 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 135 mg | [H-].[Na+]
reactant | 3,4-dihydro-7-nitro-2H-1,4-benzoxazine-4,5-dicarboxylic anhydride | 0.73 g | [N+](=O)([O-])C=1C=C2C=3N(CCO2)C(=O)OC(=O)C3C1 | C10H6N2O6
reactant | HCl | Cl | ClH
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | 2,3-dihydro-6-ethoxycarbonyl-7-hydroxy-9-nitro-5-oxo-5H-pyrido[1,2,3-de]-1,4-benzoxazine | 0.85 g | C(C)OC(=O)C1=C(C=2C=C(C=C3C2N(CCO3)C1=O)[N+](=O)[O-])O | C14H12N2O7
